US04816467
A solution of 4-chromanone (11.2 g) and diethyl oxalate (13.3 g) in anhydrous dioxane (75 ml) is added under stirring at room temperature to a suspension of 50% sodium hydride (4 g) in anhydrous dioxane (150 ml). The mixture is allowed to react under stirring at 80° C. for 3.5 hours. After cooling, the reaction mixture is diluted with ice water and acidified to pH 4 with 40% citric acid aqueous solution. The oily precipitate is extracted with ethyl acetate, then the organic solution is washed with 40% citric acid and water until neutral. After evaporation of the solvent in vacuo the residue is purified over a SiO2 column using hexane/ethyl acetate 80:20 as eluent. Crystallization from isopropyl alcohol gives 3-ethoxalylchroman-4-one, m.p. 73°-75° C. (7.7 g), which is reacted with phenylhydrazine (3.68 g) in acetic acid (80 ml) at a temperature varying between 25° C. and about 40° C. for 30 minutes. The reaction mixture is diluted with ice water and then neutralized with 30% ammonium hydroxide. The precipitate is filtered and washed with water. Crystallization from isopropyl alcohol gives 1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazole-3-carboxylic acid, ethyl ester, m.p. 154°-156° C. (7.4 g), which is reacted with acetonitrile (74 ml) in dioxane (45 ml) in the presence of 50% sodium hydride (2.2 g) under stirring at 60° C. for 30 minutes. After cooling the reaction mixture is diluted with ice water and acidified to pH 4 with citric acid. The precipitate is filtered and washed with water and purified over a SiO2 column, using chloroform as eluent.

reactant | 4-chromanone | 11.2 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | diethyl oxalate | 13.3 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium hydride | 4 g | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3-ethoxalylchroman-4-one | C(=O)(C(=O)OCC)C1COC2=CC=CC=C2C1=O | C13H12O5
